US07049444B2
3-Hexyl-6-phenyl-3-azabicyclo[3.1.0]hexane
To a solution of 3-hexyl-6-phenyl-3-azabicyclo[3.1.0]hexan-2-one (Preparation 27, 40 mg, 0.15 mmol) in anhydrous tetrahydrofaran (2 ml) at room temperature under nitrogen, was added dropwise a solution of lithium aluminium hydride 1.0 M in tetrahydrofuran (0.3 ml, 0.3 mmol), then the mixture was heated to 60□ C. for 4 hours, cooled and stirred at room temperature for 64 hours. Water (30 ml) was carefully added, then the mixture was extracted with ethyl acetate (2×25 ml). The combined extracts were washed with water (30 ml), dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by silica (1.5 g) column chromatography eluting with 80:20:1 ethyl acetate:hexane:ammonia solution (0.880). Product-containing fractions were combined and concentrated in vacuo to give the title compound as a pale yellow oil (14 mg, 38%).

reactant | 3-hexyl-6-phenyl-3-azabicyclo[3.1.0]hexan-2-one | 0.15 mmol, 40 mg | C(CCCCC)N1C(C2C(C2C1)C1=CC=CC=C1)=O | C17H23NO
reactant | lithium aluminium hydride | 1.0 M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 0.3 mmol, 0.3 ml | O1CCCC1 | C4H8O
solvent | Water | 30 ml | O | H2O
product | 3-Hexyl-6-phenyl-3-azabicyclo[3.1.0]hexane | 14 mg, 38% | C(CCCCC)N1CC2C(C2C1)C1=CC=CC=C1 | C17H25N
